US09388189B2
b) 4-Hydroxy-N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-yl)-3-methylbenzenesulfonamide
N-(5-Bromo-2-methoxypyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide (230 mg, 0.62 mmol), bis(pinacolato)diboron (205 mg, 0.81 mmol), potassium acetate (182 mg, 1.85 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (40 mg, 0.05 mmol) were suspended in dioxane (7 ml) and stirred at 100° C. for 3 h. After evaporation of the solvent under reduced pressure, ethyl acetate (20 ml) was added to the residue and the precipitated salts were eliminated by filtration. The solvents were evaporated under reduced pressure. The resulting crude was purified by flash chromatography using SP1® Purification System (0% to 10%, dichloromethane-ethyl acetate) to obtain 180 mg (70% yield) of the title compound. Purity: 100%.

reactant | N-(5-Bromo-2-methoxypyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide | 0.62 mmol, 230 mg | BrC=1C=C(C(=NC1)OC)NS(=O)(=O)C1=CC(=C(C=C1)O)C | C13H13BrN2O4S
reactant | bis(pinacolato)diboron | 0.81 mmol, 205 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.85 mmol, 182 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | 4-Hydroxy-N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-yl)-3-methylbenzenesulfonamide | 180 mg, 70% yield | OC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OC)C | C19H25BN2O6S
